US06537948B1
A mixture of 100 mg of 3-acetoxy-2-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}pyridine, 15 mg of potassium carbonate and 1 ml of methanol was stirred for 3 hours at room temperature. The reaction solution was poured into ice water, then, to this was poured acetic acid. The precipitated crystals were collected by filtration to obtain 65 mg of 2-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-3-hydroxypyridine

reactant | 3-acetoxy-2-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}pyridine | 100 mg | C(C)(=O)OC=1C(=NC=CC1)OC1=C(C=C(C(=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F)Cl | C19H12ClF4N3O5
reactant | potassium carbonate | 15 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 1 ml | CO | CH4O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-3-hydroxypyridine | 65 mg | ClC1=C(OC2=NC=CC=C2O)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C17H10ClF4N3O4
